### ISSUE TITLE
MIL C05S03 exists_prime_factro_mod_4_eq_3 

### ISSUE THREAD

**Issue by shnarazk** [shnarazk/learn#29]
My first attempt was *set* $n = 1$, `use 3`.
It was impossible so far. But why?

```lean
theorem exists_prime_factor_mod_4_eq_3 {n : Nat} (h : n % 4 = 3) :
    ∃ p : Nat, p.Prime ∧ p ∣ n ∧ p % 4 = 3 := by
  by_cases np : n.Prime
  · use n
  induction' n using Nat.strong_induction_on with n ih
  rw [Nat.prime_def_lt] at np
  push_neg  at np
  rcases np (two_le_of_mod_4_eq_3 h) with ⟨m, mltn, mdvdn, mne1⟩
  have mge2 : 2 ≤ m := by
    apply two_le _ mne1
    intro mz
    rw [mz, zero_dvd_iff] at mdvdn
    linarith
  have neq : m * (n / m) = n := Nat.mul_div_cancel' mdvdn
  have : m % 4 = 3 ∨ n / m % 4 = 3 := by
    apply mod_4_eq_3_or_mod_4_eq_3
    rw [neq, h]
  rcases this with h1 | h1
  {
     ...
  }
```
